US05811419
5.02 g (18.45 mmol) 3-(2,6-dichloro-phenyl)-5-methyl-isoxazole-4-carboxylic acid (CAS Reg. No 3919-76-4, Beilstein 5-27, 6-27) were dissolved in 140 ml acetonitrile. 2.8 g (27.6 mmol) N-methyl-morpholine were added. Then 7.36 g 2,2'-dithiobisbenzothiazole were added. A solution of 5.36 g (32.3 mmol) triethylphosphite in 15 ml acetonitrile were added dropwise within two hours at 0° C. The solution was cooled to -10° C. The obtained crystals were filtered off under suction, washed with acetonitrile and ether. 3-(2,6-dichlorophenyl)-5-methyl-isoxazole-4-carbothioic acid S-benzothiazol-2-yl ester was obtained.

reactant | 3-(2,6-dichloro-phenyl)-5-methyl-isoxazole-4-carboxylic acid | 18.45 mmol, 5.02 g | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1C(=O)O)C | C11H7Cl2NO3
reactant | N-methyl-morpholine | 27.6 mmol, 2.8 g | CN1CCOCC1 | C5H11NO
reactant | 2,2'-dithiobisbenzothiazole | 7.36 g | S1C(=NC2=C1C=CC=C2)SSC=2SC1=C(N2)C=CC=C1 | C14H8N2S4
reactant | triethylphosphite | 32.3 mmol, 5.36 g | C(C)OP(OCC)OCC | C6H15O3P
solvent | acetonitrile | 140 ml | C(C)#N | C2H3N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 3-(2,6-dichlorophenyl)-5-methyl-isoxazole-4-carbothioic acid S-benzothiazol-2-yl ester | S1C(=NC2=C1C=CC=C2)SC(=O)C=2C(=NOC2C)C2=C(C=CC=C2Cl)Cl | C18H10Cl2N2O2S2
